US08227458B2
trans-4-(3-Cyano-phenoxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(3-cyano-phenoxy)-cyclohexanecarboxylic acid methyl ester (0.277 g, 1.07 mmol) and hydrazine hydrate (0.104 ml, 2.14 mmol) in n-butanol (0.5 ml) was heated at 120° C. for 18 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and 1 M aqueous sodium hydroxide solution (50 ml). The layers were separated and the aqueous layer was extracted with a 50-ml portion of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was triturated in methanol (7 ml). The solids were removed by filtration and the filtrate was concentrated in vacuo to give the crude title compound (0.15 g, 55%) as light red solid, which was used in the next step without further purification. MS m/e: 260 (M+H+)

reactant | trans-4-(3-cyano-phenoxy)-cyclohexanecarboxylic acid methyl ester | 1.07 mmol, 0.277 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=CC(=CC=C1)C#N | C15H17NO3
reactant | hydrazine hydrate | 2.14 mmol, 0.104 ml | O.NN
solvent | n-butanol | 0.5 ml | C(CCC)O | C4H10O
product | trans-4-(3-Cyano-phenoxy)-cyclohexanecarboxylic acid hydrazide | 0.15 g, 55% | C(#N)C=1C=C(O[C@@H]2CC[C@H](CC2)C(=O)NN)C=CC1 | C14H17N3O2
